US08664217B2
4-Pyridinecarbaldehyde (5.36 g, 50 mmol) and 3-(2-aminoethyl)pyridine (6.5 ml, 50 mmol) were added to methanol (100 ml), and stirred at room temperature for 7 hours. The resulting mixture was cooled to 0° C. Sodium borohydride (2.8 g, 74 mmol) was added to the mixture, and stirred at 0° C. for 1 hour. Water was then added to the reaction mixture to distill the methanol off under reduced pressure. The residue was extracted with dichloromethane. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:methanol=95:5→85:5). The purified product was concentrated under reduced pressure to thereby obtain 10.03 g (yield: 94%) of (2-pyridin-3-ylethyl)pyridin-4-ylmethylamine as a colorless oil.

reactant | 4-Pyridinecarbaldehyde | 50 mmol, 5.36 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 3-(2-aminoethyl)pyridine | 50 mmol, 6.5 ml | NCCC=1C=NC=CC1 | C7H10N2
reactant | methanol | 100 ml | CO | CH4O
reactant | Sodium borohydride | 74 mmol, 2.8 g | [BH4-].[Na+]
solvent | Water | O | H2O
product | (2-pyridin-3-ylethyl)pyridin-4-ylmethylamine | 10.03 g, yield: 94% | N1=CC(=CC=C1)CCNCC1=CC=NC=C1 | C13H15N3
